US07985762B2
3-Chloro-5-fluoro-4-hydroxybenzaldehyde (1.0 gram, 5.7 mmol) in THF (40 mL) was heated at reflux for 17 hours with KOH (534 mg, 9.5 mmol, 1.7 eq) in water (5 mL) and iodoethane (1 mL, 2.2 eq). The reaction was then transferred to a separatory funnel with water and extracted with methylene chloride (thrice, 150 mL each). The combined organic layers were washed with 10% aqueous HCl (40 mL), dried (MgSO4), and concentrated to a viscous orange liquid to yield 1.13 g of 3-chloro-4-ethoxy-5-fluorobenzaldehyde (98%). 1H-NMR (500 MHz, CDCl3): 9.84 (d, J=1.9 Hz, 1H), 7.71 (t, J=1.6 Hz, 1H), 7.53 (dd, J=1.9, 10.7 Hz, 1H), 4.37-4.32 (m, 2H), 1.47-1.40 (m, 3H).

reactant | 3-Chloro-5-fluoro-4-hydroxybenzaldehyde | 5.7 mmol, 1.0 gram | ClC=1C=C(C=O)C=C(C1O)F | C7H4ClFO2
reactant | KOH | 9.5 mmol, 534 mg, 1.7 eq | [OH-].[K+]
reactant | iodoethane | 1 mL, 2.2 eq | ICC | C2H5I
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-chloro-4-ethoxy-5-fluorobenzaldehyde | 1.13 g, 98% | ClC=1C=C(C=O)C=C(C1OCC)F | C9H8ClFO2
